US03933906
The mixture of 1 g of 4-(4-acetamidophenylamino)-3-benzylamino-5-(4-acetamidophenylsulfamoyl)-benzoic acid and 10 ml of 2 N aqueous sodium hydroxide is refluxed for 1 hour under nitrogen. After cooling it is filtered, the filtrate acidified with glacial acetic acid to a pH of 4-5, the precipitate collected and recrystallized from 30 ml of 50% aqueous ethanol, to yield the 4-(4-aminophenylamino)-3-benzylamino-5-(4-aminophenylsulfamoyl)-benzoic acid melting at 238° with decomposition.

reactant | 4-(4-acetamidophenylamino)-3-benzylamino-5-(4-acetamidophenylsulfamoyl)-benzoic acid | 1 g | C(C)(=O)NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(NC1=CC=C(C=C1)NC(C)=O)(=O)=O)NCC1=CC=CC=C1 | C30H29N5O6S
solvent | sodium hydroxide | 2 N, 10 ml | [OH-].[Na+]
product | 4-(4-aminophenylamino)-3-benzylamino-5-(4-aminophenylsulfamoyl)-benzoic acid | NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(NC1=CC=C(C=C1)N)(=O)=O)NCC1=CC=CC=C1 | C26H25N5O4S
